data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2506,2785,[CH3:13][O:14][C:15](=[O:16])[C:17](=[NH+:18][C-:19]([CH3:20])[C:21](=[O:22])[O:23][CH3:24])[C:25]([CH3:26])=[O:27].[N:1]#[C:2][CH:3]1[C:4]#[C:5][C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1>>[N:1]#[C:2][CH:3]1[C:4]2=[C:5]([C:6]([Br:7])([Br:8])[CH2:9][CH2:10][CH2:11][CH2:12]1)[C:17]([C:15]([O:14][CH3:13])=[O:16])([C:25]([CH3:26])=[O:27])[NH:18][C:19]2([CH3:20])[C:21](=[O:22])[O:23][CH3:24],water,298.15,20.773520699105536,-34.70300574190226
3859,4417,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[CH:15]=[O+:16][N-:17][C:18]([CH3:19])=[O:20]>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[CH:15]([C:13]([O:12][CH3:11])=[O:14])[O:16][N:17]2[C:18]([CH3:19])=[O:20],water,298.15,1.0207031900153565,-35.628371470162115
2622,2909,[CH3:14][NH:15][C:16](=[O:17])[C:18](=[O+:19][C-:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[CH:9]2[CH:10]3[CH:11]([CH:12]1[O:13]2)[C:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[O:19][C:18]3([C:16]([NH:15][CH3:14])=[O:17])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1,water,298.15,9.705731006649502,-69.02300434186239
796,863,[CH3:10][C:11](=[O:12])[CH-:13][N+:14]([CH3:15])=[C:16]([C:17]#[N:18])[C:19]#[N:20].[F:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[F:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]3[CH:7]([CH:8]1[O:9]2)[CH:13]([C:11]([CH3:10])=[O:12])[N:14]([CH3:15])[C:16]3([C:17]#[N:18])[C:19]#[N:20],water,298.15,16.348369342489754,-32.73021789496907
5131,5826,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[C-:18]([C:19]#[N:20])[O+:21]=[C:22]([C:23]#[N:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:18]([C:16]([CH3:15])=[O:17])([C:19]#[N:20])[O:21][C:22]2([C:23]#[N:24])[c:25]1[cH:26][cH:27][cH:28][cH:29][cH:30]1,water,298.15,15.436407979932524,-22.75043293813616
4568,5213,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[c-:15]1[c:16](=[O:17])[o:18][c:19]([C:20]([CH3:21])=[O:22])[n+:23]1[CH3:24]>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]1([C:13]([O:12][CH3:11])=[O:14])[C:16](=[O:17])[O:18][C:19]2([C:20]([CH3:21])=[O:22])[N:23]1[CH3:24],water,298.15,23.629155055037145,5.190656981534678
1096,1194,[CH3:11][NH:12][C:13](=[O:14])[C-:15]([C:16]#[N:17])[N+:18]([CH3:19])=[CH:20][C:21](=[O:22])[O:23][CH3:24].[N:1]#[C:2][C:3]1=[C:4]([Cl:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[N:1]#[C:2][C:3]12[C:4]([Cl:5])([CH:6]3[CH:7]=[CH:8][CH:9]1[O:10]3)[CH:20]([C:21](=[O:22])[O:23][CH3:24])[N:18]([CH3:19])[C:15]2([C:13]([NH:12][CH3:11])=[O:14])[C:16]#[N:17],water,298.15,22.284322892457503,-30.899027489913784
755,817,[CH3:10][NH:11][C:12](=[O:13])[CH:14]=[NH+:15][N-:16][C:17]([CH3:18])=[O:19].[F:1][C:2]1=[C:3]([Br:4])[CH:5]2[CH:6]=[CH:7][CH:8]1[O:9]2>>[F:1][C:2]12[C:3]([Br:4])([CH:5]3[CH:6]=[CH:7][CH:8]1[O:9]3)[N:16]([C:17]([CH3:18])=[O:19])[NH:15][CH:14]2[C:12]([NH:11][CH3:10])=[O:13],water,298.15,27.77404729978155,-35.536770641702866
2364,2626,[CH3:13][N+:14](=[CH:15][c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1)[C-:22]([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1.[F:1][C:2]1=[C:3]([C:4]([F:5])([F:6])[F:7])[CH:8]2[CH:9]=[CH:10][CH:11]1[O:12]2>>[F:1][C:2]12[C:3]([C:4]([F:5])([F:6])[F:7])([CH:8]3[CH:9]=[CH:10][CH:11]1[O:12]3)[C:22]([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)([c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1)[N:14]([CH3:13])[CH:15]2[c:16]1[cH:17][cH:18][cH:19][cH:20][cH:21]1,water,298.15,16.826740092067645,-35.64053850399613
4923,5608,[CH3:9][O:10][C:11](=[O:12])[C:13]([C:14]([CH3:15])=[O:16])=[N+:17]([CH3:18])[C-:19]([C:20]([CH3:21])=[O:22])[C:23](=[O:24])[O:25][CH3:26].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:19]([C:20]([CH3:21])=[O:22])([C:23](=[O:24])[O:25][CH3:26])[N:17]([CH3:18])[C:13]1([C:11]([O:10][CH3:9])=[O:12])[C:14]([CH3:15])=[O:16],water,298.15,31.09220452748624,-19.975941436310983
3974,4547,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C-:9]([NH+:10]=[C:11]([CH3:12])[C:13](=[O:14])[O:15][CH3:16])[C:17](=[O:18])[O:19][CH3:20]>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[C:9]([C:7]([NH:6][CH3:5])=[O:8])([C:17](=[O:18])[O:19][CH3:20])[NH:10][C:11]1([CH3:12])[C:13](=[O:14])[O:15][CH3:16],water,298.15,26.743573119542056,-18.89942858584152
